US06187572B1
(3-Bromo)propyltriethylphosphonium bromide.
The solution of 0.591 ml (0.473 g, 4.00 mmol) of triethylphosphine in 5 ml of acetonitrile was added to the refluxing solution of 4.04 g (20.0 mmol) of 1,3-dibromopropane in 15 ml of acetronitrile over 1 hr. under argon atmosphere. After the addition was completed, the reaction mixture was refluxed for another 6 hrs. After being cooled, acetonitrile was evaporated, 15 ml of ethyl acetate was then introduced into the residue. After being stored in refrigerator for a couple of hours, the highly hygroscopic white solid was collected by filtration. Yield 1.09 g (85%). 1HNMR(DMSOd-6, ppm): 3.64 (t, J=6.7 Hz, 2 H), 2.36-2.17 (m, 8 H) 2.08-2.02 (m, 2 H), 1.13 (d t, J1=18.2 Hz, J2=7.7 Hz, 1 H).

reactant | triethylphosphine | 4.00 mmol, 0.591 ml, 0.473 g | C(C)P(CC)CC | C6H15P
reactant | 1,3-dibromopropane | 20.0 mmol, 4.04 g | BrCCCBr | C3H6Br2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3-Bromo)propyltriethylphosphonium bromide | [Br-].BrCCC[P+](CC)(CC)CC | InChI=1S/C9H21BrP.BrH/c1-4-11(5-2,6-3)9-7-8-10;/h4-9H2,1-3H3;1H/q+1;/p-1
